US08124629B2
Bromo-4-methanesulfonyl benzene (50.78 g, 213 mmol) was placed in a 3-necked round bottomed flask and purged with argon. Copper(I) iodide (2.05 g, 10.6 mmol) and bis(triphenylphosphine)palladium(II) chloride (PdCl2(PPh3)2) (7.55 g, 10.6 mmol) were added while purging with argon, followed by the addition of triethylamine (200 mL) and anhydrous dichloromethane (200 mL). (Trimethylsilyl)acetylene (61 mL, 425 mmol) was added and the reaction mixture was stirred at room temperature over 72 hours. The mixture was concentrated, then partitioned between ethyl acetate and water. The combined organic layers were washed with 1 N hydrochloric acid, water, and brine, dried over magnesium sulfate, filtered, and concentrated to afford crude (4-methanesulfonyl-phenylethynyl)-trimethyl-silane (54 g, 213 mmol), which was used in the next step without further purification. MS (ESI+) cald. for C12H16O2SSi [(M+H)+] 252, obsd. 253.

reactant | Bromo-4-methanesulfonyl benzene | 213 mmol, 50.78 g | BrC1=CC=C(C=C1)S(=O)(=O)C | C7H7BrO2S
reactant | (Trimethylsilyl)acetylene | 425 mmol, 61 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | Copper(I) iodide | 10.6 mmol, 2.05 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 10.6 mmol, 7.55 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (4-methanesulfonyl-phenylethynyl)-trimethyl-silane | 213 mmol, 54 g | CS(=O)(=O)C1=CC=C(C=C1)C#C[Si](C)(C)C | C12H16O2SSi
